US04897105
Preparation of 5,7-dimethoxy-2-[(2-difluoromethoxybenzyl)sulfonyl]imino-2H-[1,2,4]-thiadiazolo[2,3-a]pyrimidine (Compound No. 33)
To a suspension of 0.5 g of N-(2-difluoromethoxybenzyl) sulfonyl-N'-(4,6-dimethoxy-2-pyrimidinyl)thiourea in 20 ml of methanol is added 0.2 g of N-bromosuccinimide with stirring under ice cooling. After stirring for 30 minutes at the same temperature and further for an hour at room temperature, the crystals are collected by filtration, washed with methanol, and recrystallized from acetonitrile to give 0.3 g of the title compound as white crystals.

reactant | N-(2-difluoromethoxybenzyl) sulfonyl-N'-(4,6-dimethoxy-2-pyrimidinyl)thiourea | 0.5 g | FC(OC1=C(CS(=O)(=O)NC(=S)NC2=NC(=CC(=N2)OC)OC)C=CC=C1)F | C15H16F2N4O5S2
reactant | N-bromosuccinimide | 0.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | methanol | 20 ml | CO | CH4O
product | 5,7-dimethoxy-2-[(2-difluoromethoxybenzyl)sulfonyl]imino-2H-[1,2,4]-thiadiazolo[2,3-a]pyrimidine | 0.3 g | COC1=NC=2N(C(=C1)OC)SC(N2)=NS(=O)(=O)CC2=C(C=CC=C2)OC(F)F | C15H14F2N4O5S2
